US05814574
(c) Bis(2-tetrahydrofurfuryl-cyclopentadienyl) Zirconium Dichloride
A solution of 7.0 g (46.7 mmol) tetrahydrofurfurylcyclopentadiene prepared according to step (b) above in 50 ml THF was added to 1.82 g (46.5 mmol) clean, dry potassium metal under nitrogen. This was stirred for two hours at room temperature and was then warmed to 40° C. for a further two hours. After cooling, the solution was filtered and the remaining potassium washed, dried and weighed. The yield of potassium tetrahydrofurfuryl-cyclopentadienylide (KCp') was calculated to be 6.26 g (33.3 mmol). The KCp ' solution was added to 3.73 g (16.0 mmol) zirconium tetrachloride in 20 ml THF and stirred for two hours. Approximately 0.5 ml water was added to the reaction vessel and the volatiles removed under reduced pressure. The residue was extracted with diethyl ether and filtered. The volume of ether was reduced under vacuum until precipitation began. Cooling to -50° C. in a low temperature freezer yielded 4.50 g (9.78 mmol, 61.1%) of product as colourless needles shown to be spectroscopically pure by 1H NMR.

reactant | tetrahydrofurfurylcyclopentadiene | 46.7 mmol, 7.0 g | C(C1CCCO1)C1=CC=CC1 | C10H14O
reactant | potassium | [K] | K
reactant | zirconium tetrachloride | 16.0 mmol, 3.73 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | water | 0.5 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | Bis(2-tetrahydrofurfuryl-cyclopentadienyl) Zirconium Dichloride | 9.78 mmol, 4.50 g, 61.1% | [Cl-].[Cl-].C(C1CCCO1)C=1C(C=CC1)[Zr+2]C1C(=CC=C1)CC1CCCO1 | InChI=1S/2C10H13O.2ClH.Zr/c2*1-2-5-9(4-1)8-10-6-3-7-11-10;;;/h2*1-2,4-5,10H,3,6-8H2;2*1H;/q;;;;+2/p-2
